US08383615B2
Step 2: Synthesis of (S)-1-(4-Chloro-phenyl)-azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
To a cold solution (0° C.) of (S)-1-(4-Chloro-phenyl)-azetidine-2-carboxylic acid (100 mg; 0.472 mmol) and 3-amino-5-t-butylisoxazole (66 mg; 0.472 mmol) in pyridine (1.5 mL) is added phosphorus oxychloride (0.043 m; 0.48 mmol). The reaction mixture is stirred at room temperature for 18 hours. After this time, the reaction mixture is diluted with ethyl acetate and washed with diluted NH4Cl aqueous solution then brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel using ethyl acetate/hexanes provides the title compound, m/z 334 [M+H+].

reactant | (S)-1-(4-Chloro-phenyl)-azetidine-2-carboxylic acid | 0.472 mmol, 100 mg | ClC1=CC=C(C=C1)N1[C@@H](CC1)C(=O)O | C10H10ClNO2
reactant | 3-amino-5-t-butylisoxazole | 0.472 mmol, 66 mg | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | phosphorus oxychloride | 0.48 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(4-Chloro-phenyl)-azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(CC1)C1=CC=C(C=C1)Cl | C17H20ClN3O2
